US08614327B2
A flask charged with N-[5-benzyloxy-4-isopropyl-2-(trifluoromethyl)phenyl]-4-oxo-1H-quinoline-3-carboxamide (118 mg, 0.25 mmol) and Pd/C (12 mg, 0.11 mmol) was evacuated under vacuum, followed by purging with N2. Methanol (2 mL) was added under inert atmosphere, followed by evacuating under vacuum. The reaction was stirred overnight under an atmosphere of hydrogen, filtered through a plug of celite and concentrated to give N-[5-hydroxy-4-isopropyl-2-(trifluoromethyl)phenyl]-4-oxo-1H-quinoline-3-carboxamide. 1H NMR (400.0 MHz, DMSO-d6) δ 12.93 (s, 1H), 12.59 (s, 1H), 10.29 (s, 1H), 8.87 (s, 1H), 8.32 (dd, J=1.0, 8.1 Hz, 1H), 7.95 (s, 1H), 7.83-7.74 (m, 2H), 7.52 (t, J=8.0 Hz, 1H), 7.36 (s, 1H), 3.20 (qn, J=6.9 Hz, 1H) and 1.24-1.19 (m, 6H) ppm. LC/MS: m/z 391.36 (M+H)+ at 1.77 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | N-[5-benzyloxy-4-isopropyl-2-(trifluoromethyl)phenyl]-4-oxo-1H-quinoline-3-carboxamide | 0.25 mmol, 118 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)NC(=O)C1=CNC2=CC=CC=C2C1=O)C(F)(F)F)C(C)C | C27H23F3N2O3
catalyst | Pd/C | 0.11 mmol, 12 mg | [Pd] | Pd
product | N-[5-hydroxy-4-isopropyl-2-(trifluoromethyl)phenyl]-4-oxo-1H-quinoline-3-carboxamide | OC=1C(=CC(=C(C1)NC(=O)C1=CNC2=CC=CC=C2C1=O)C(F)(F)F)C(C)C | C20H17F3N2O3
